US07105544B2
1-(4-FLUOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 92 was prepared from 1-(4-fluorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.46–7.43 (m, 3H), 7.26–7.22 (m, 2H), 7.10 (d, 1H, J=8.4 Hz), 7.06–7.01 (m, 2H), 6.74 (br s, 1H), 3.31 (dd, 2H, J=6.0, 12.0 Hz), 2.96 (d, 2H, J=11.6 Hz), 2.68 (m, 1H), 2.52 (m, 1H), 2.36–2.32 (m, 4H), 2.29 (s, 3H), 2.03–1.90 (m, 4H), 1.74–1.61 (m, 12H), 1.27 (d, 6H, J=6.8 Hz); ESMS m/e: 522.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclohexanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | 1-(4-FLUOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C | C32H44FN3O2
